US09233979B2
Step 4: 6-amino-2,4-dichloronicotinonitrile
To a solution of tert-butyl(4,6-dichloro-5-cyanopyridin-2-yl)carbamate (2.1 g, 7.2 mmol) in dichloromethane (30.0 mL) was added TFA (3.0 mL) at 0° C. and stirred at the room temperature for 3 h. After confirming the completion of starting material by TLC, the reaction mixture was concentrated and the crude product was purified by column chromatography (dichloromethane:methanol=9:1) to afford titled compound. 1H NMR (ppm, 400 MHz, DMSO-d6): δ 7.81 (bs, 2H), 6.59 (s, 1H), MS ES calc'd. for C6H3C12N3 [M+H]+ 188. Found 188.

reactant | tert-butyl(4,6-dichloro-5-cyanopyridin-2-yl)carbamate | 7.2 mmol, 2.1 g | C(C)(C)(C)OC(NC1=NC(=C(C(=C1)Cl)C#N)Cl)=O | C11H11Cl2N3O2
reactant | TFA | 3.0 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | dichloromethane | 30.0 mL | ClCCl | CH2Cl2
product | 6-amino-2,4-dichloronicotinonitrile | NC1=NC(=C(C#N)C(=C1)Cl)Cl | C6H3Cl2N3
